US04370497
1,3-Diphenylthiourea (114 mg, 0,5 mmol) was reacted with bis-(p-methoxyphenyl)-telluroxide for 16 h (methanol as solvent), the methanol was evaporated off under vacuum, the residue triturated with benzene and filtered to afford 1,3-diphenylurea as a white solid (72 mg, 68%), m.p. 234° (lit., 238°-239°).

reactant | 1,3-Diphenylthiourea | 0,5 mmol, 114 mg | C1(=CC=CC=C1)NC(=S)NC1=CC=CC=C1 | C13H12N2S
reactant | bis-(p-methoxyphenyl)-telluroxide | COC1=CC=C(C=C1)[Te](=O)C1=CC=C(C=C1)OC | C14H14O3Te
solvent | methanol | CO | CH4O
product | 1,3-diphenylurea | 72 mg, 68% | C1(=CC=CC=C1)NC(=O)NC1=CC=CC=C1 | C13H12N2O
